US06455528B1
Synthesis of N-(1-(4-((4-(2,4-Difluorophenyl)piperazin-1-yl)methyl)phenyl)propyl)acetamide
By similar reaction and treatment to that in Example 1(5) using 1-(2,4-difluorophenyl)piperazine instead of phenylpiperazine and N-(1-(4-chloromethylphenyl)propyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide, the title compound was obtained as pale-brown crystals, m.p.=137-138° C.

reactant | 1-(2,4-difluorophenyl)piperazine | FC1=C(C=CC(=C1)F)N1CCNCC1 | C10H12F2N2
reactant | N-(1-(4-chloromethylphenyl)propyl)acetamide | ClCC1=CC=C(C=C1)C(CC)NC(C)=O | C12H16ClNO
product | N-(1-(4-((4-(2,4-Difluorophenyl)piperazin-1-yl)methyl)phenyl)propyl)acetamide | FC1=C(C=CC(=C1)F)N1CCN(CC1)CC1=CC=C(C=C1)C(CC)NC(C)=O | C22H27F2N3O
